US09290468B2
Step 6: methyl 4-amino-5-(4-methoxybenzylthio)-3-fluoro-2-((2-fluorophenyl)amino)benzoate
To a solution of methyl 4-azido-5-(4-methoxybenzylthio)-3-fluoro-2-((2-fluorophenyl)amino)benzoate (21.04 g, 46.09 mmol) in MeOH (500 mL) was added and 10% palladium on carbon (3.40 g) under nitrogen atmosphere. Then the nitrogen atmosphere was completely changed to hydrogen atmosphere. The mixture was stirred for 2 h at ambient temperature. After the insoluble matter was filtered off, the solvent was evaporated in vacuo to give the desired product (19.46 g, 98.1% yield). 1H NMR (400 MHz, CDCl3): δ 9.07 (s, 1H), 7.77 (s, 1H), 7.06 (m, 4H), 6.95 (m, 2H), 6.81 (d, J=8.3 Hz, 2H), 4.68 (s, 2H), 3.85 (s, 5H), 3.81 (s, 3H).

reactant | methyl 4-azido-5-(4-methoxybenzylthio)-3-fluoro-2-((2-fluorophenyl)amino)benzoate | 46.09 mmol, 21.04 g | N(=[N+]=[N-])C1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)F)F | C22H18F2N4O3S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 500 mL | CO | CH4O
catalyst | palladium on carbon | 3.40 g | [Pd] | Pd
product | methyl 4-amino-5-(4-methoxybenzylthio)-3-fluoro-2-((2-fluorophenyl)amino)benzoate | 19.46 g, 98.1% yield | NC1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)F)F | C22H20F2N2O3S
